### PR TITLE
feat(Algebra/Polynomial): Descartes' Rule of signs

### PR DESCRIPTION
**Pull request by Timeroot**
Proof of Descartes' Rule of Signs. Last PR from https://github.com/Timeroot/lean-descartes-signs , now that #9085 is merged. Defines `Polynomial.SignVariations` as the relevant quantity, and `descartes_rule_of_signs` as the headline theorem.

---

I tried to clean it up + golf it down and did shrink it a good deal. The lemma `signvar_mul_eraseLead_le_of_nextCoeff` is still 142 lines, and `succ_sign_lin_mul` is ~140 lines of code as well. Those are the ugly ones. I welcome ideas if someone wants to try to clean them up more! But the proof really does require an annoying bit of case-splitting, as far as I can tell.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 1]
```diff
@@ -0,0 +1,588 @@
...
+        apply signvar_mul_eraseLead_le_of_nextCoeff hqpos
+        simp [← hsq1, hcsq1, ← sign_eq_one_iff]
+
+      linarith
+
+variable {α : Type*} [LinearOrderedCommRing α]
+
+/-- Descartes' Rule of Signs: the number of positive roots is at most the number of sign
+variations. -/
+theorem descartes_rule_of_signs (P : Polynomial α) : P.roots.countP (0 < ·) ≤ SignVariations P := by
```
Comment (BoltonBailey) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean:553]: I think the maintainers generally prefer theorems to be named with the naming conventions, (e.g. `roots_countP_neg_le_SignVariations`) even when the theorem is named.

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 2]
```diff
@@ -0,0 +1,588 @@
...
+  rw [hndexP0]
+  rw [← self_sub_monomial_natDegree_leadingCoeff, leadingCoeff_monic_mul (monic_X_sub_C η)]
+  rw [← self_sub_monomial_natDegree_leadingCoeff, leadingCoeff_monic_mul (monic_X_sub_C η)]
+  rw [hndxeP, hndxP]
+  rw [leadingCoeff_eraseLead_eq_nextCoeff hc.ne, ← self_sub_monomial_natDegree_leadingCoeff]
+  rw [hQ, mul_sub, sub_mul, sub_mul, X_mul_monomial, C_mul_monomial, monomial_sub]
+  rw [leadingCoeff, nextCoeff_of_natDegree_pos (hdp1 ▸ dp1.succ_pos), hdp1, Nat.add_sub_cancel]
+  abel
+
+--effectively a specialization of the final theorem for monomials
```
Comment (BoltonBailey) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean:244]: Can this, and the other -- comments above lemmas in this file, be turned into a docstring comment for the lemma s?

File: Mathlib/Algebra/Polynomial/RuleOfSigns.lean [hunk 3]
```diff
@@ -0,0 +1,588 @@
...
+    rw [natDegree_mul (X_sub_C_ne_zero η) hpne0, natDegree_X_sub_C, add_comm]
+  have hndep : P.natDegree = P.eraseLead.natDegree + 1 :=
+    (natDegree_eraseLead_add_one h₂.ne').symm
+  have hxepn0 : (X - C η) * P.eraseLead ≠ 0 :=
+    mul_ne_zero (X_sub_C_ne_zero η) (mt nextCoeff_eq_zero_of_eraseLead_eq_zero h₂.ne')
+  have hndxep : natDegree ((X - C η) * eraseLead P) = P.eraseLead.natDegree + 1 := by
+    rw [natDegree_mul (mul_ne_zero_iff.mp hxepn0).1 (mul_ne_zero_iff.mp hxepn0).2,
+      natDegree_X_sub_C, add_comm]
+
+  have heqc : ∃ (c₀ : α) (cs : List α),
```
Comment (BoltonBailey) [inline Mathlib/Algebra/Polynomial/RuleOfSigns.lean:276]: Can this `have` be refactored into a lemma? Generally, it is nice if theorems with proofs more than a few dozen lines long are refactored to use lemmas as much as possible.

**Review by BoltonBailey — CHANGES_REQUESTED** [review]
If I recall, this theorem is pretty critical for things like manipulation of algebraic numbers as data. Thanks for PRing it!

**Comment by Timeroot** [comment]
Done! I also tried to golf some more.

**Comment by Timeroot** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26331
